US07247734B2
This compounds was synthesised in the same manner as described above. Resorcinol (0.66 g, 6 mmol), 4-bromophenylacetic acid (1.29 g, 6 mmol), BF3Et2O (4 ml), PCl5 (1.9 g, 9.1 mmol), DMF (5 ml and 10 ml). The precipitate formed was filtered and re-crystallized from methanol to give 3-(4-bromo-phenyl)-7-hydroxy-chromen-4-one as a white crystalline solid (1.1 g, 57.8%); Rf 0.85 ethyl acetate.

reactant | Resorcinol | 6 mmol, 0.66 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 4-bromophenylacetic acid | 6 mmol, 1.29 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | PCl5 | 9.1 mmol, 1.9 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(4-bromo-phenyl)-7-hydroxy-chromen-4-one | 1.1 g, 57.8% | BrC1=CC=C(C=C1)C1=COC2=CC(=CC=C2C1=O)O | C15H9BrO3
